Name:  ___                        Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I am very scared"

 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
This is a ___ year old married ___ woman with a past 
psychiatric history of anxiety and one prior psychiatric 
hospitalization who presents to the ___ at the urging of her 
outpatient psychiatrist due to increasing intrusive thoughts and 
behaviors and intermittent passive SI. 
.
Per Dr. ___  ___ ED Initial Psychiatry Consult note: 
The patient reports that for the past two months she has been 
unable to sleep due to having overwhelming thoughts to go "check 
everything" in her house, such as the faucet, the refrigerator, 
the doors, etc. She reports getting 2 hours of sleep or less per 
night and states that she is exhausted. She states that this has
especially worsened over the past two weeks, and continues to 
worsen. She has been unable to focus because of these thoughts, 
and recently quit her job at a ___ because these 
thoughts were too overwhelming. She cannot concentrate to 
prepare herself food, and so she has been eating very little and 
has lost 10 lbs over the past month. 
. 
The patient reports doing uncharacteristic things as well, such 
as buying 2 different airplane tickets to go home to ___. 
She felt like her symptoms may improve if she went home. She has 
previously had a ticket to ___, but bought an additional 
ticket that had a closer date. She states that she "lost $1600" 
by doing this. 
. 
Reports increasing depression with passive SI. The SI has been 
increasing over the past few days due to feeling out of control 
of her racing thoughts. Reports feelings of hopelessness while 
at home, although states that she has a small amount of hope 
when thinking about receiving care in the hospital. 
. 
Per collateral obtained from the husband: ___: ___: 
This has been going on for a couple of months. Most nights the 
patient gets little to no sleep. She will get out of bed every 5 
to 10 minutes to check on appliances. For example, she will get 
up to check on the fridge to make sure it's closed, but then 
will stand and stare at the fridge for a while in order to make 
sure it's closed. She has made comments to him that she will die 
due to these intrusive thoughts and has said things like "death 
is coming for her" and "this will kill her." She was 
hospitalized once in ___ previously when she was getting 
very little sleep, however this current episode is significantly 
worse. The patient has been reported headaches as well, which he 
attributes to little sleep."
. 
In the ED, patient remained in good behavioral control without 
incident. She did not receive any medication in the ED.
.  
On admission interview, patient was significantly anxious and 
unable to participate in much of the interview. She did confirm 
the major aspects of the history taken in the emergency room. 
Patient was pacing around the interview room, and said she was 
unable to sit down because she was too nervous.  She stated that 
she was particularly concerned that she was going to be stuck in 
the hospital. She also stated that she needed to call her 
husband because she was concerned that he would be unable to 
find her in the hospital. She stated significant anxiety, but 
denied any suicidal ideation at this time, she denied any 
thoughts of self-harm. She denied any violent ideation. She 
denied any auditory or visual hallucinations.
. 
REVIEW OF SYSTEMS:
- Depression: reports depression with passive SI. Reports 
difficultly sleeping, fatigue, deceased appetite with a 10 lb 
weight loss, and hopelessness
- Anxiety: reports severe anxiety and nightly panic attacks. 
ruminative and intrusive thoughts.
- Mania: reports racing thoughts, decreased sleep, impulsivity 
(bought 2 airplane tickets home, "losing" $1600)
- Psychosis - denies AVH
. 
- General ROS: Denies fatigue, fever, chills, nightsweats, 
headache, focal numbness, focal weakness, changes in vision, 
changes in hearing, heat intolerance, cold intolerance, 
polyuria, polydipsia, cough, SOB, CP, palpitations, abdominal 
pain, nausea, vomiting, diarrhea, constipation, melena, dysuria, 
increased urinary frequency, rash, skin changes, joint pain, 
muscle pain, edema, bruising, bleeding.

 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
- Prior diagnoses: Generalized anxiety disorder
- Hospitalizations: once in ___ ___ years ago for insomnia 
and
passive SI
- Psychiatrist: Dr. ___ at ___
- Therapist: none 
- Medication trials: Patient was started on risperidone, however
did not respond well to this medication per Dr. ___.
- Suicide attempts: denies
- Self-injurious behavior: denies
- Harm to others: denies
- Trauma: denies
- Access to weapons: denies
.
PAST MEDICAL HISTORY:
PCP: ___. ___
Denies
Denies history of head trauma, seizure.
 
Social History:
___
Family History:
- Psychiatric Diagnoses: denies
-Substance Use Disorders: denies
- Suicide Attempts/Completed Suicides: denies

 
Physical Exam:
VITAL SIGNS:
___ 2216 BP: 144/95 HR: 102 RR: 20 O2 sat: 100% 

EXAM:
ADMISSION PHYSICAL EXAM

VITAL SIGNS:
___ at 0812: T 98.9, HR 110, BP 110/77, RR 20, SpO2 96% on 
RA
HR ___ on manual recheck at 1200

EXAM:
General:
-HEENT: Normocephalic, atraumatic.  Moist mucous membranes,
oropharynx clear, supple neck.  No scleral icterus.
-Cardiovascular: Regular rate and rhythm, S1/S2 heard, no
murmurs/rubs/gallops. Distal pulses ___ throughout.
-Pulmonary: No increased work of breathing.  Lungs clear to
auscultation bilaterally.  No wheezes/rhonchi/rales.
-Abdominal: Non-distended, bowel sounds normoactive.  No
tenderness to palpation in all quadrants.
-Extremities: Warm and well-perfused.  No edema of the limbs.
-Skin: No rashes or lesions noted.
 Neurological:
    *station and gait: steady
    *tone and strength:good strength ___ throughout
    cranial nerves:II-XII grossly intact and symmetric
    abnormal movements:none noted
    frontal release:none
  *Appearance:good eye contact, appropriately dressed and 
groomed
  Behavior:anxious
  *Mood and Affect: anxious, sad/restricted but reactive
*Thought process (including whether linear, tangential,
circumstantial and presence or absence of loose *associations):
linear and organized 
*Thought Content (including presence or absence of
hallucinations, delusions, homicidal and suicidal ideation, with
details if present): denies AVH/SI/HI, significant for
ruminations
  *Judgment and Insight:limited/limited
  Cognition:
    *Attention, *orientation, and executive function: intact
    *Memory: immediate, short term and long term memory intact
   *Fund of knowledge:not fully assessed
    Calculations: not assessed
    Abstraction:not assessed
    *Speech:accented fluent ___
    ___

Cognition: 
 -Wakefulness/alertness: Awake and alert
 -Attention: Patient is fixated on speaking with her husband, 
can
minimally attend to the interview.
 -Orientation: Oriented to person, time, place, situation
 -Memory: Intact to recent events, long-term grossly intact
 -Fund of knowledge: Apparently average
 -Calculations: Not assessed
 -Abstraction: Not assessed-Visuospatial: Not assessed
 -Language: ___ speaker with accent, no paraphasic errors,
appropriate to conversation

Mental Status:
 -Appearance: Young woman appearing younger than her stated age,
well-groomed with appropriate hygiene, hair in a ponytail,
wearing hospital gown.  Appears significantly anxious.  
 -Behavior: Patient with poor eye contact, pacing around the
room, looking towards the door, significant psychomotor 
agitation
fidgeting with her hands.
 -Mood: "Scared "
 -Affect: Mood-congruent anxious affect, full range
 -Speech: Soft volume, short sentences, little spontaneous
speech.  Appropriate rate and tone 
 -Thought process: Linear, coherent, goal-oriented, no loose
associations
 -Thought Content: Denies suicidal ideation.  Denies violent
ideation.  Denies auditory or visual hallucinations.  Does not
appear to be attending to internal stimuli.  No compulsive 
___
behavior noted during the exam.
 -Insight: Limited
 -Judgment: Poor

 
Pertinent Results:
___ 05:50PM   GLUCOSE-113* UREA N-12 CREAT-0.8 SODIUM-142 
POTASSIUM-4.0 CHLORIDE-104 TOTAL CO2-27 ANION GAP-11
___ 05:50PM   estGFR-Using this
___ 05:50PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 05:50PM   WBC-8.7 RBC-4.42 HGB-12.7 HCT-38.2 MCV-86 
MCH-28.7 MCHC-33.2 RDW-11.9 RDWSD-37.6
___ 05:50PM   NEUTS-52.8 ___ MONOS-10.7 EOS-0.6* 
BASOS-0.5 IM ___ AbsNeut-4.59 AbsLymp-3.06 AbsMono-0.93* 
AbsEos-0.05 AbsBaso-0.04
___ 05:50PM   PLT COUNT-230
___ 04:40PM URINE  HOURS-RANDOM
___ 04:40PM URINE  UCG-NEGATIVE
___ 04:40PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 04:40PM URINE  COLOR-Yellow APPEAR-Hazy* SP ___
___ 04:40PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 04:40PM URINE  RBC-2 WBC-2 BACTERIA-FEW* YEAST-NONE 
EPI-1
___ 04:40PM URINE  MUCOUS-FEW*
 
Brief Hospital Course:
Ms. ___ is a ___ year old female with a past psychiatric history 
of anxiety and one prior psychiatric hospitalization who 
presented to the ___ at the urging of her outpatient 
psychiatrist due to increasing intrusive thoughts and behaviors 
and intermittent passive SI. On initial interview in the 
emergency room,  patient 
reported repetitive thoughts to check on things at home, such as 
doors and appliances. Recently the thoughts became overwhelming, 
and she quit her job and had difficulty eating and sleeping due 
to these thoughts. She also reported depression, passive SI, and 
hopelessness in the context of these overwhelming thoughts. 
Additionally patient reported racing thoughts, increased 
impulsivity and increased spending (recently bought 2 tickets 
home to ___ >$1600 which she did not use). Collateral from 
her outpatient psychiatrist and husband was concerning for 
increasing difficultly in functioning at home as well as 
suicidal thoughts.  Interview on admission to the inpatient 
psychiatry unit, patient was
significantly more anxious, pacing around the room, only able to 
participate participate minimally with with the interview 
process. MSE notable for anxious appearing woman who appears 
younger than her stated age, pacing around the room looking at 
the door.  Recursive thoughts of needing to call her husband, 
and inattentive to the interview.  Patient notably denied any 
suicidal ideation, violent ideation, thoughts of self-harm, 
auditory or visual hallucinations.  Cognitive exam was limited 
by patient's participation, however was seemingly intact. 

Diagnostically, patient has a history of GAD, however given her 
racing thoughts, impulsive spending, increased speech, as well 
as report of depression and hopelessness, treatment team 
considered bipolar disorder, mixed state. Given her obsessive, 
intrusive thoughts and behaviors, treatment team also considered 
obsessive-compulsive disorder. It was determined that Ms. ___ 
would benefit from continued psychiatric evaluation for safety, 
stabilization, psychopharmacologic evaluation, diagnostic 
clarity, psychotherapeutic interventions, and aftercare 
coordination. Patient met ___ criteria for involuntary 
admission and it was determined that inpatient psychiatric 
admission was the least restrictive level of care to ensure the 
patient's safety and minimize the risk of harm. 

1. LEGAL & SAFETY:  
___ refused to sign a conditional voluntary agreement and was 
admitted on a ___, which expired on ___.  At that time, 
Ms. ___ was not deemed to be at risk of harm to self or others, 
so Ms. ___ was discharged. 
 
2. PSYCHIATRIC:
#)MDD, recurrent, severe, without psychotic features, R/O OCD 
As noted above. The patient was initially continued on her home 
dose of lorazepam  0.5mg tablet one tablet by mouth twice a day, 
and one tablet at night anxiety/insomnia. Her night time dose 
was subsequently titrated up to 1mg at bedtime with good effect 
and denial of side effects by the patient. PRN of trazodone for 
insomnia was initially started to address the patient's 
insomnia, however the patient never utilized it and so it was 
stopped. In light of her symptoms suggesting OCD, the treatment 
team started her on escitalopram 10 mg daily. Risks and benefits 
of the medication were explained to the patient, she expressed 
understanding and was agreeable to a trial. She initially 
attributed a headache to escitalopram but ultimately felt her 
new mild headache was not secondary to this medication and was 
agreeable to continuing the medication upon discharge. Give a 
long standing history of chronic episodic depression and anxiety 
and symptoms suggesting possible hypomania, a olanzepine was 
started. Risks and benefits of the medication were explained to 
the patient, she expressed understanding and was agreeable to a 
trial. However, the patient experienced new onset mild headache 
in the setting of re-equilibration from her recent insomnia and 
poor po intake prior to admission, along with starting the new 
medication. While the treatment team thought her new, mild 
headache was more likely secondary to re-equilibration with 
increased sleep, and increased po intake while admitted, the 
patient attributed her headache to the olanzepine, leading to 
her refusal of the medication after one dose. Over the 
admission, the treatment team observed a resolution in the 
patient's symptoms of anxiety and intrusive thoughts/behaviors. 
Treatment team also observed an improvement in the patient's 
depressive symptoms with a complete denial of SI/HI.  

3. SUBSTANCE USE DISORDERS:
Ms. ___ does not have any substance use disorders, and therefore 
did not require any counseling or treatment in this regard.

4. MEDICAL
Ms. ___ was medically cleared in the ED; no acute  medical 
issues prevented admission to Deac 4.  Additionally, Ms. ___ has 
no chronic medical issues requiring attention.

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
Ms. ___  was encouraged to participate in the various groups and 
milieu therapy opportunities offered by the unit.  The 
occupational therapy and social work groups that focus on 
teaching patients various coping skills. Ms. ___ intermittently 
attended these groups. Ms. ___ was intermittently visible in the 
milieu and appropriately interacted with staff and peers.

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT:
Ms. ___ gave verbal and written permission for the team to 
contact her outpatient psychiatrist, Dr. ___. He was 
provided with a summary of Ms. ___ presentation to the ___ 
ED/Deac 4 and an update of her progress since admission on Deac 
4, and he provided collateral information and treatment 
recommendations.

Ms. ___ did not have an outpatient therapist while admitted on 
Deac 4, therefore one was not contacted. Ms. ___ was offered the 
possibility of referral which was declined while the patient was 
on the unit. However, she remained open to discussing the topic 
of therapist referral with her outpatient psychiatrist, Dr. 
___. 

Ms. ___ gave verbal and written permission for the team to 
contact her husband, ___, who was also given an update 
onMs. ___ progress while admitted and discharge plan.

6. INFORMED CONSENT: 
Medication: Lexapro (Escitalopram)
---Intended effects/Benefits: treatment of depression, anxiety, 
intrusive thoughts and compulsive behaviors
---Adverse effects/Risks: nausea, vomiting, diarrhea, QTc 
prolongation
Ms. ___ was informed of alternative treatments, the consequences 
of no treatment, and the expected duration of treatment. She/He 
appeared to appreciate the information conveyed in the consent 
process by asking appropriate questions, which were answered by 
the treatment team, and expressing understanding of the 
potential risks and benefits (see above).  Prior to starting 
treatment, the team also discussed the patient's right to decide 
whether to take this medication as well as the importance of the 
patient's actively participating in the treatment.  ___ 
understood the above and consented to begin the medication.

Medication: Zyprexa (Olanzepine)
---Intended effects/Benefits: Treatment of Depression/Anxiety
---Adverse effects/Risks: Orthostatic hypotension, sedation, 
akinesia, increased appetite, constipation, QTc prolongation
Ms. ___ was informed of alternative treatments, the consequences 
of no treatment, and the expected duration of treatment. She/He 
appeared to appreciate the information conveyed in the consent 
process by asking appropriate questions, which were answered by 
the treatment team, and expressing understanding of the 
potential risks and benefits (see above).  Prior to starting 
treatment, the team also discussed the patient's right to decide 
whether to take this medication as well as the importance of the 
patient's actively participating in the treatment.  ___ 
understood the above and consented to begin the medication.

7. RISK ASSESSMENT
On presentation, Ms. ___ was evaluated and felt to be at an 
increased risk of harm to herself.  Ms. ___ static risk 
factors noted at that time include chronic mental illness, 
caucasian ethnicity, limited social supports, unemployment.  The 
modifiable risk factors identified were as such: suicidal 
ideation without plan, disorganized behavior, poorly controlled 
mental illness, hopelessness, severe ansiety, insomnia, limited 
coping skills. These modifiable risk factors were addressed with 
acute stabilization in a safe environment on a locked inpatient 
unit, psychopharmacologic adjustments, psychotherapeutic 
interventions (OT groups, SW groups, individual therapy meetings 
with psychiatrists), and presence on a social milieu 
environment.  Ms. ___ is being discharged with many protective 
factors, including female gender, age, married, future-oriented 
toward gaining employment, lack of suicidal ideation, no prior 
suicide attempts/self-injurious behavior, no chronic substance 
use, reality-testing ability. 

Our prognosis of this patient is fair.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LORazepam 0.5 mg PO QHS 

 
Discharge Medications:
1.  Escitalopram Oxalate 10 mg PO DAILY 
RX *escitalopram oxalate 10 mg 1 tablet(s) by mouth every day in 
the morning Disp #*14 Tablet Refills:*0 
2.  LORazepam 0.5 mg PO DAILY PRN anxiety/insomnia/agitation  
3.  LORazepam 1 mg PO QHS 
RX *lorazepam 1 mg 1 tablet by mouth every day at bed time Disp 
#*14 Tablet Refills:*0
RX *lorazepam 1 mg ___ tab by mouth as directed Disp #*20 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major depressive disorder 
GAD, r/o obsessive compulsive disorder 

 
Discharge Condition:
VS: T: 99.1 PO BP: 122/8 HR: 84RR: 16SPO2: 97%RA
A/B: Appears stated age, dressed casually with good hygiene and
grooming, pleasant on examination, no psychomotor agitation or 
retardation noted
S: normal rate, volume, prosody 
M: good
A: Euthymic, bright, mood congruent, appropriate 
TC: denies SI/HI, AVH
TP: linear, goal and future oriented
C: awake, alert, responds to questions appropriately 
I/J: fair/fair
Ambulatory Status: Ambulatory - As tolerated

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___